* R03C - diode-emulated ZCD / pulse-skipping takeover
* PURPOSE: rerun the R03B control idea without an instantaneous algebraic
* current comparator controlling the low-side switch. R03B failed numerically at
* TSTART+2.48 ns due to zero-crossing chatter; its log is retained.
*
* UNCHANGED FROM R03A
* P24 Fig.3 one-module/four-phase power stage; Vin=48 V, target Vout=1 V,
* Pmodule=250 W, 5-MHz phase opportunities, D=1/12, Lphase=2.68 nH.
* EPE2019 Table-I Cfly=53.8 uF and Cout=4.672 mF.
* IPEC2018 passive divider startup; Cdiv=1.076 mF and Tramp=100 us remain
* R02B sensitivity settings, not P24 values. No capacitor initial conditions.
*
* ONLY CHANGED VARIABLE RELATIVE TO R03B
* Fixed complementary takeover is replaced by an ideal control abstraction:
* (1) a phase may start only at its ordinary 5-MHz interleaved opportunity,
*     when its inductor current is non-positive and Vout is below VREF;
* (2) fixed P24 on-time is retained;
* (3) after high-side turn-off, an ideal diode surrogate carries positive
*     phase current and naturally releases it at zero;
* (4) low-side MOS commands remain OFF after takeover. This is a numerical
*     surrogate for ideal ZCD, not a change claimed for the physical topology;
* (5) missed opportunities are skipped. No event is advanced to fit results.
*
* LITERATURE BOUNDARY
* P24/P25: boundary operation and interleaving are the target operating family.
* ISSCC2019 ref. [12]/[22]: output-comparator pulse request, variable timing,
* peak-current control and low-side ZCD support this controller abstraction.
* EPE2019 startup work supports separating capacitor establishment from normal
* PWM takeover. None of these sources provides the P24 numeric ZCD threshold,
* delay, blanking or startup-current limit; R03C therefore uses an ideal-diode
* zero-current surrogate and
* is not a hardware-controller reproduction.
*
* EXPLICIT OMISSIONS
* No Coss, dead time, negative-current ZVS interval, ESR/ESL, GaN model,
* propagation delay, current limit, or fitted capacitor initial voltage.

.param VIN=48 VREF=1 POUT=250 NP=4 FSW=5Meg T={1/FSW}
.param D={NP*VREF/VIN} TON={D*T} LPHASE=2.68n
.param CFLY=53.8u COUT=4.672m RLOAD={VREF*VREF/POUT}
.param CDIV=1.076m TRAMP=100u TSTART=150u TSTOP=170u
.param LPAR=5n RPAR=10m RON=1u ROFF=1T VGATE=5 RLDAMP=1u

VSTEP src 0 PWL(0 0 {TRAMP} {VIN} {TSTOP} {VIN})
RPAR_IN src src_r {RPAR}
LPAR_IN src_r vin {LPAR}

* Passive precharge remains physically connected; no 36/24/12-V sources.
CIN1 vin tap3 {CDIV}
CIN2 tap3 tap2 {CDIV}
CIN3 tap2 tap1 {CDIV}
CIN4 tap1 0 {CDIV}
RLEAK1 vin tap3 1G
RLEAK2 tap3 tap2 1G
RLEAK3 tap2 tap1 1G
RLEAK4 tap1 0 1G
DPC1 tap3 a1 DPRE
DPC2 tap2 a2 DPRE
DPC3 tap1 a3 DPRE

* Ordinary 1->2->3->4 opportunity order. A phase whose current has not
* returned to zero misses that opportunity; its gate is not time-shifted.
BH1 gh1 0 V=if(time>=TSTART & mod(time-TSTART+T,T)<TON & I(L1)<=0 & V(out)<VREF,VGATE,0)
BH2 gh2 0 V=if(time>=TSTART & mod(time-TSTART+T-T/4,T)<TON & I(L2)<=0 & V(out)<VREF,VGATE,0)
BH3 gh3 0 V=if(time>=TSTART & mod(time-TSTART+T-T/2,T)<TON & I(L3)<=0 & V(out)<VREF,VGATE,0)
BH4 gh4 0 V=if(time>=TSTART & mod(time-TSTART+T-3*T/4,T)<TON & I(L4)<=0 & V(out)<VREF,VGATE,0)

* Precharge: all low sides ON. After takeover the low-side gate is OFF;
* ideal antiparallel diodes below emulate natural current extinction at zero.
* This avoids the R03B algebraic on/off chatter and changes no paper parameter.
BL1 gl1 0 V=if(time<TSTART,VGATE,0)
BL2 gl2 0 V=if(time<TSTART,VGATE,0)
BL3 gl3 0 V=if(time<TSTART,VGATE,0)
BL4 gl4 0 V=if(time<TSTART,VGATE,0)

SH1 vin a1 gh1 0 SWI
CF1 a1 x1 {CFLY}
SL1 x1 0 gl1 0 SWI
L1 x1 out {LPHASE} Rser={RLDAMP}
SH2 a1 a2 gh2 0 SWI
CF2 a2 x2 {CFLY}
SL2 x2 0 gl2 0 SWI
L2 x2 out {LPHASE} Rser={RLDAMP}
SH3 a2 a3 gh3 0 SWI
CF3 a3 x3 {CFLY}
SL3 x3 0 gl3 0 SWI
L3 x3 out {LPHASE} Rser={RLDAMP}
SH4 a3 x4 gh4 0 SWI
SL4 x4 0 gl4 0 SWI
L4 x4 out {LPHASE} Rser={RLDAMP}
DFW1 0 x1 DFREE
DFW2 0 x2 DFREE
DFW3 0 x3 DFREE
DFW4 0 x4 DFREE

* Numerical leakage prevents an open DCM switch node from becoming singular;
* 1-Gohm paths are numerical references, not claimed physical components.
RX1 x1 0 1G
RX2 x2 0 1G
RX3 x3 0 1G
RX4 x4 0 1G

CCO out 0 {COUT}
RLOAD_MAIN out 0 {RLOAD}
.model SWI SW(Ron={RON} Roff={ROFF} Vt=2.5 Vh=0)
.model DPRE D(Ron=1m Roff=1T Vfwd=0)
.model DFREE D(Ron=1u Roff=1T Vfwd=0)

.meas tran VC1_PRE FIND V(a1,x1) AT {TSTART-1u}
.meas tran VC2_PRE FIND V(a2,x2) AT {TSTART-1u}
.meas tran VC3_PRE FIND V(a3,x3) AT {TSTART-1u}
.meas tran VC1_END FIND V(a1,x1) AT {TSTOP-1n}
.meas tran VC2_END FIND V(a2,x2) AT {TSTOP-1n}
.meas tran VC3_END FIND V(a3,x3) AT {TSTOP-1n}
.meas tran VOUT_END FIND V(out) AT {TSTOP-1n}
.meas tran VOUT_PK MAX V(out) FROM {TSTART} TO {TSTOP}
.meas tran VOUT_MIN_LAST MIN V(out) FROM {TSTOP-2u} TO {TSTOP}
.meas tran VOUT_MAX_LAST MAX V(out) FROM {TSTOP-2u} TO {TSTOP}
.meas tran IIN_PK MAX -I(VSTEP) FROM {TSTART} TO {TSTOP}
.meas tran IL1_MIN MIN I(L1) FROM {TSTART} TO {TSTOP}
.meas tran IL1_MAX MAX I(L1) FROM {TSTART} TO {TSTOP}
.meas tran IL2_MIN MIN I(L2) FROM {TSTART} TO {TSTOP}
.meas tran IL2_MAX MAX I(L2) FROM {TSTART} TO {TSTOP}
.meas tran IL3_MIN MIN I(L3) FROM {TSTART} TO {TSTOP}
.meas tran IL3_MAX MAX I(L3) FROM {TSTART} TO {TSTOP}
.meas tran IL4_MIN MIN I(L4) FROM {TSTART} TO {TSTOP}
.meas tran IL4_MAX MAX I(L4) FROM {TSTART} TO {TSTOP}

.options reltol=1e-5 abstol=1e-9 chgtol=1e-16
.save V(vin) V(out) V(a1,x1) V(a2,x2) V(a3,x3) V(gh1) V(gh2) V(gh3) V(gh4) V(gl1) V(gl2) V(gl3) V(gl4) I(VSTEP) I(L1) I(L2) I(L3) I(L4)
.tran 0 {TSTOP} 0 .5n UIC
.end
